US08221905B2
Tosyl chloride (8.4 g, 44 mmol) was added to a solution of 3-iodocarbazole (11.7 g, 40 mmol) and grounded KOH (2.7 g, 48 mmol) in 200 mL of acetone. The mixture was refluxed for 3 hours, and then cooled down. It was poured into 1 L of cold water while stirring. After sitting for 30 minutes, the liquid was decanted. The crude product was thus obtained as sticky solid on the beaker wall. About 11 g of pure 3-iodo-9-tosylcarbazole was obtained after recystallization from CH2Cl2/EtOH.

reactant | Tosyl chloride | 44 mmol, 8.4 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-iodocarbazole | 40 mmol, 11.7 g | IC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8IN
reactant | KOH | 48 mmol, 2.7 g | [OH-].[K+]
reactant | water | 1 L | O | H2O
solvent | acetone | 200 mL | CC(=O)C | C3H6O
solvent | CH2Cl2 EtOH | C(Cl)Cl.CCO
product | 3-iodo-9-tosylcarbazole | 11 g | IC=1C=CC=2N(C3=CC=CC=C3C2C1)S(=O)(=O)C1=CC=C(C)C=C1 | C19H14INO2S
